US07795288B2
1-[2-(4-Isothiocyanato-phenoxy)-ethyl]-pyrrolidine
A solution of thiophosgene (150 μL, 1.76 mmol, 1.2 equiv) in CHCl3 (2.7 mL) is added to a vigorously stirred mixture of 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (0.303 g, 1.47 mmol) in CHCl3 (7.5 mL) and a saturated aqueous solution of NaHCO3 (7.5 mL). The resulting dark mixture is stirred at RT for 1 h. The layers are separated and the aqueous phase is extracted with CHCl3. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a dark oil: ES-MS: 249.0 [M+H]+; single peak at tR=6.90 min (System 1).

reactant | thiophosgene | 1.76 mmol, 150 μL, 1.2 equiv | C(=S)(Cl)Cl | CCl2S
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 1.47 mmol, 0.303 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | NaHCO3 | 7.5 mL | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 2.7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 7.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(4-Isothiocyanato-phenoxy)-ethyl]-pyrrolidine | N(=C=S)C1=CC=C(OCCN2CCCC2)C=C1 | C13H16N2OS
